US07071182B2
(2E)-3-(1,1′-biphenyl-4-yl)-N-[1-(2-pyrrolidin-1-ylethyl)-1H-indazol-5-yl]acrylamide
1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-5-ylamine and 3-biphenyl-4-yl-acrylic acid were processed as described in Example 17 to provide the title compound. MS (DCI/NH3) MS m/z 437 (M+H)+; 1H NMR (500 MHz, DMSO-d6) δ ppm 1.84 (m, 2 H), 1.99 (m, 2 H), 3.06 (m, 2 H), 3.53 (m, 2 H), 3.72 (m, 2 H), 4.76 (t, J=5.93 Hz, 2 H), 6.91 (m, 1 H), 7.40 (m, 1 H), 7.50 (m, 2 H), 7.64 (m, 2 H), 7.75 (m, 7 H), 8.18 (s, 1 H), 8.31 (s, 1 H), 9.56 (br s, N H)

reactant | 1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-5-ylamine | N1(CCCC1)CCN1N=CC2=CC(=CC=C12)N | C13H18N4
reactant | 3-biphenyl-4-yl-acrylic acid | C1(=CC=C(C=C1)C=CC(=O)O)C1=CC=CC=C1 | C15H12O2
product | (2E)-3-(1,1′-biphenyl-4-yl)-N-[1-(2-pyrrolidin-1-ylethyl)-1H-indazol-5-yl]acrylamide | C1(=CC=C(C=C1)/C=C/C(=O)NC=1C=C2C=NN(C2=CC1)CCN1CCCC1)C1=CC=CC=C1 | C28H28N4O
